US07098202B2
Preparation of 1-[N-[(1,3-benzodioxol-5-yl)sulfonyl]-N-(2-methylpropyl)amino]-3(S)-amino-4-phenyl-2(R)-butanol.methahesulfonic acid salt
Part B: To the THF solution of crude 1-[N-[(1,3-benzodioxol-5-yl)sulfonyl]-N-(2-methylpropyl)amino]-3(S)-[bis(phenylmethyl)amino]-4-phenyl-2(R)-butanol was added water (500 mL) followed by methane sulfonic acid (531 g, 5.5 moles). The solution was stirred to insure complete mixing and added to a 5 gallon autoclave. Pearlman's catalyst (200 g of 20% Pd(OH)2 on C/50% water) was added to the autoclave with the aid of THF (500 mL). The reactor was purged four times with nitrogen and four times with hydrogen. The reactor was charged with 60 psig of hydrogen and stirring at 450 rpm started. After 16 hours, HPLC analysis indicated that a small amount of the mono-benzyl intermediate was still present Additional catalyst (50 g) was added and the reaction was allowed to run overnight. The solution was then filtered through celite (500 g) to remove the catalyst and concentrated under vacuum in five portions. To each portion, toluene (500 mL) was added and removed under vacuum to azeotropically removed residual water. The resulting solid was divided into three portions and each washed with methyl t-butyl ether (2 L) and filtered. The residual solvent was removed at room temperature in a vacuum oven at less than 1 torr to yield the 2714 g of the expected salt.

reactant | 1-[N-[(1,3-benzodioxol-5-yl)sulfonyl]-N-(2-methylpropyl)amino]-3(S)-[bis(phenylmethyl)amino]-4-phenyl-2(R)-butanol | O1COC2=C1C=CC(=C2)S(=O)(=O)N(CC(C)C)C[C@H]([C@H](CC2=CC=CC=C2)N(CC2=CC=CC=C2)CC2=CC=CC=C2)O | C35H40N2O5S
reactant | water | 500 mL | O | H2O
reactant | methane sulfonic acid | 5.5 moles, 531 g | CS(=O)(=O)O | CH4O3S
catalyst | Pearlman's catalyst | 200 g | [OH-].[OH-].[Pd+2]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 1-[N-[(1,3-benzodioxol-5-yl)sulfonyl]-N-(2-methylpropyl)amino]-3(S)-amino-4-phenyl-2(R)-butanol | 2714 g | O1COC2=C1C=CC(=C2)S(=O)(=O)N(CC(C)C)C[C@H]([C@H](CC2=CC=CC=C2)N)O | C21H28N2O5S
